US05889026
4-Allyl-2-fluoro-1-methoxy benzene (1.2 g, 7.22 mmol) was dissolved in CH2Cl2 (35 ml) and treated successively with buffer pH=7.95 (35 ml, NaH2PO4 --Na2HPO4) and m-chloroperbenzoic acid 70% (2.2 g, 9 mmol). Reaction mixture was stirred at room temperature for 63 hours. The aqueous phase was extracted with CH2Cl2 (4×30 ml), combined organic phases were washed with sat. NaHCO3 (50 ml), dried over Na2SO4 and concentrated. The residue was chromatographed over siliga gel (hexan-ethyl acetate 9:1) to provide (RS)-2-(3-Fluoro-4-methoxy-benzyl)-oxirane (0.49 g, 37%) as a yellow oil MS: m/e=182 (M+).

reactant | 4-Allyl-2-fluoro-1-methoxy benzene | 7.22 mmol, 1.2 g | C(C=C)C1=CC(=C(C=C1)OC)F | C10H11FO
reactant | m-chloroperbenzoic acid | 9 mmol, 2.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 35 ml | C(Cl)Cl | CH2Cl2
product | (RS)-2-(3-Fluoro-4-methoxy-benzyl)-oxirane | 0.49 g, 37% | FC=1C=C(CC2OC2)C=CC1OC | C10H11FO2
